US09326987B2
6-(1H-Indol-4-yl)-1-(phenylsulfonyl)-1H-indazole-4-carbonitrile
To a solution of 6-bromo-1-(phenylsulfonyl)-1H-indazole-4-carbonitrile (5 g, 13.80 mmol) in 1,4-dioxane (50 ml) and water (20 ml) was added 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (4.03 g, 16.57 mmol), 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride (1.010 g, 1.380 mmol) and potassium phosphate tribasic (8.79 g, 41.4 mmol). The mixture was heated at 60° C. for 1 h, cooled and evaporated in vacuo. The residue was partitioned between water (50 ml) and dichloromethane (100 ml). The suspended solid was collected and the organics were separated by hydrophobic frit and concentrated to approx 50 ml. The precipitated solid was collected as a beige solid (1.93 g) and the filtrate purified by silica (300 g) cartridge using a gradient of ethyl acetate and cyclohexane, to give the title compound as a pale yellow solid (0.91 g). The solid collected during partitioning was purified by pre-absorbing onto florisil and purification by silica (100 g) cartridge on Flashmaster 11 using a gradient of dichloromethane and ethyl acetate to give a further quantity of the title compound as a pale yellow solid (0.45 g).

reactant | 6-bromo-1-(phenylsulfonyl)-1H-indazole-4-carbonitrile | 13.80 mmol, 5 g | BrC=1C=C(C=2C=NN(C2C1)S(=O)(=O)C1=CC=CC=C1)C#N | C14H8BrN3O2S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 16.57 mmol, 4.03 g | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC=C1)C | C14H18BNO2
reactant | potassium phosphate tribasic | 41.4 mmol, 8.79 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride | 1.380 mmol, 1.010 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 6-(1H-Indol-4-yl)-1-(phenylsulfonyl)-1H-indazole-4-carbonitrile | 0.91 g | N1C=CC2=C(C=CC=C12)C=1C=C(C=2C=NN(C2C1)S(=O)(=O)C1=CC=CC=C1)C#N | C22H14N4O2S
